US04067858
To a stirred suspension of polymer ester of (6R, 7R)-3-methyl-7-phenylacetamidoceph-3-em-4-carboxylic acid (5.00g, 4.45 mole, from example 8 in methylene chloride (35 ml.) and methanol (10 ml.) cooled to 0° was added peracetic acid (38% w/v, 1.1 ml., 5.50 m.mole) in one portion. Stirring was continued for 30 minutes at 0° and for a further 15 minutes, after removal of the cooling bath. The reaction mixture was filtered and pulled as dry as possible. The product was washed with methylene chloride (2 × 50 ml.) methanol (2 × 50 ml.), and methylene chloride (2 × 50 ml.). The product was dried to constant weight in vacuo at 30° to give the pale yellow polymer ester of (1S, 6R. 7R)-3-methyl-7-phenylacetamidoceph-3-em-4-carboxylic acid 1-oxide (5.00g, which proved to be similar (infra red, nmr., and t.l.c.) with the product obtained in example 9 above.

reactant | (6R, 7R)-3-methyl-7-phenylacetamidoceph-3-em-4-carboxylic acid | CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C16H16N2O4S
reactant | methanol | 10 ml | CO | CH4O
reactant | peracetic acid | 1.1 ml | C(C)(=O)OO | C2H4O3
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | (1S, 6R. 7R)-3-methyl-7-phenylacetamidoceph-3-em-4-carboxylic acid 1-oxide | CC=1C[S@@]([C@H]2N(C1C(=O)O)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C16H16N2O5S
